Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
azithromycin / ondansetron / aspirin / Motrin
 
Attending: ___
 
Chief Complaint:
Headache and Nausea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo RHWF presenting after 2 days of headache and nausea.
Was wrestling with a friend 2 days ago and hit the back the curb
with the back of her head. Was initially seen at OSH ED, sent
home, represented for persistent symptoms, underwent a CTH and
was transferred here
 
Past Medical History:
PMHx: Hepatitis C, Polysubstance abuse, psychiatric issues.
 
Social History:
___
Family History:
NC
 
Physical Exam:
A&O x3
PERRL
Facial symmetry
Tounge midline
Moving all 4 extremities spontaneously ___ strength. 
 
Brief Hospital Course:
___ yo s/p TBI and R frontotemporal contusion following a fall 
and head strike. She was admitted to the hospital for 
observation and repeat head non-contrast CT. She remained 
neurologically intact. Repeat imaging was stable and was notable 
for  Unchanged right inferior frontal lobe and right temporal 
lobe contusion and small subdural hematoma consistent with 
redistribution. Her neurological exam remained stable upon 
discharge. Patient will follow up with PCP. No narcotic pain 
medications were prescribed upon discharge. She was instructed 
to take Keppra 500mg BID for 7 days. Fioricet was provided for 
headache. 

 
Medications on Admission:
Medications prior to admission:
Gabapentin 800mg TID
Wellbutrin SR 200mg BID
Clonidine 0.1mg TID
Clonazepam 1mg TID
Promethazine 50mg TID
Adderall 30mg TID
 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth Q8H PRN Disp #*40 Capsule Refills:*0
2. Amphetamine-Dextroamphetamine 30 mg PO TID 
3. BuPROPion (Sustained Release) 200 mg PO BID 
4. ClonazePAM 1 mg PO TID 
5. CloniDINE 0.1 mg PO TID 
6. Gabapentin 800 mg PO TID 
7. LevETIRAcetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
8. Promethazine 50 mg PO Q8H:PRN Nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TBI and R frontotemporal contusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- You were in the hospital for Headache.

- Resume your regular activities as tolerated

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

DANGER SIGNS:
Please call your PCP office and/or return to the emergency 
department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with your PCP to schedule appointment upon 
discharge.

 
Followup Instructions:
___